US08003800B2
To a solution of 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(4-isobutyl-3-methyl-thiophen-2-yl)-propan-1-one (317 mg, 0.96 mmol) in isopropanol (10 mL), 3 N aq. NaOH (2.5 mL) followed by epichlorohydrine (284 mg, 3.07 mmol) is added. The dark red mixture is stirred at rt for 16 h before it is diluted with sat. aq. NaHCO3 and extracted twice with diethyl ether. The organic extracts are washed with water, dried over Na2SO4, filtered and evaporated to give crude 3-(3,5-dimethyl-4-oxiranylmethoxy-phenyl)-1-(4-isobutyl-3-methyl-thiophen-2-yl)-propan-1-one (339 mg) as a yellow oil. The material is dissolved in 7 N NH3 in methanol (7.5 mL) and the resulting solution is stirred in an autoklave at 65° C. for 2.5 h. The solvent is removed in vacuo and the residue is dried under HV to leave rac-3-[4-(3-amino-2-hydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(4-isobutyl-3-methyl-thiophen-2-yl)-propan-1-one (353 mg) as an orange oil; LC-MS: tR=0.88 min, [M+1]=404.20; 1H NMR (CDCl3): δ 7.06 (s, 1H), 6.88 (s, 2H), 3.98-3.90 (m 1H), 3.85-3.73 (m, 2H), 3.15-3.07 (m, 2H), 3.00-2.84 (m, 4H), 2.47 (s, 3H), 2.42 (d, J=7.6 Hz, 2H), 2.25 (s, 6H), 1.83 (hept, J=7.0 Hz, 1H), 0.92 (d, J=6.4 Hz, 6H).

reactant | 3-(4-hydroxy-3,5-dimethyl-phenyl)-1-(4-isobutyl-3-methyl-thiophen-2-yl)-propan-1-one | 0.96 mmol, 317 mg | OC1=C(C=C(C=C1C)CCC(=O)C=1SC=C(C1C)CC(C)C)C | C20H26O2S
reactant | epichlorohydrine | 3.07 mmol, 284 mg | C(Cl)C1CO1 | C3H5ClO
reactant | NH3 | 7 N | N | H3N
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
solvent | NaOH | 3 N, 2.5 mL | [OH-].[Na+]
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 7.5 mL | CO | CH4O
product | rac-3-[4-(3-amino-2-hydroxy-propoxy)-3,5-dimethyl-phenyl]-1-(4-isobutyl-3-methyl-thiophen-2-yl)-propan-1-one | 353 mg | NCC(COC1=C(C=C(C=C1C)CCC(=O)C=1SC=C(C1C)CC(C)C)C)O | C23H33NO3S
